US06458772B1
To a solution of 1-(2-N-CBz-L-valyloxyethyl)-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid chloromethyl ester (1.80 g, 3.87 mmol) in acetonitrile (30 mL), was added sodium iodide (2.32 g, 15.5mmol). The solution was stirred for 4 h at 60° C. The resulting suspension was filtered and the filtrate was evaporated. The residue was dissolved in CH2Cl2 and washed with aqueous sodium thiosulfate (0.1 M). The organic phase was dried (Na2SO4) and concentrated under reduced pressure. The crude product was column chromatographed (silica gel, 1% MeOH in CH2Cl2), to give 2.04 g 1-(2-N-CBz-L-valyloxyethyl)-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid iodomethyl ester.

reactant | 1-(2-N-CBz-L-valyloxyethyl)-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid chloromethyl ester | 3.87 mmol, 1.80 g | ClCOC(=O)C1=CN(C(C=C1)=O)CCOC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O | C22H25ClN2O7
reactant | sodium iodide | 15.5mmol, 2.32 g | [I-].[Na+]
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 1-(2-N-CBz-L-valyloxyethyl)-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid iodomethyl ester | 2.04 g | ICOC(=O)C1=CN(C(C=C1)=O)CCOC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O | C22H25IN2O7
